US05792786
The title compound was obtained in quantitative yield by hydrogenation of a solution of Z-Gly-Tris in ethanol at 40 atm. pressure in a Parr hydrogenator in the presence of palladium on carbon (10%). The removal of the benzyloxycarbonyl group was monitored by HPLC (System A). The catalyst was removed by filtration and washed with ethanol. Evaporation of the solvent gave the title product in 95% purity as shown by 1H NMR spectroscopy. Ala-Tris was prepared in an analogous manner. The preparation of Z-Gly-Tris and Z-Ala-Tris are described in Whittaker, R. G., Hayes, P. J.,and Bender, V. J. (1993) Peptide Research 6, 125 and Australian Patent No. 649242.

reactant | Z-Gly Tris | N(CC(=O)O)C(=O)OCC1=CC=CC=C1.C(C(CO)(CO)N)O
reactant | Z-Ala Tris | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1.C(C(CO)(CO)N)O
product | Ala Tris | N[C@@H](C)C(=O)O.C(C(CO)(CO)N)O | InChI=1S/C4H11NO3.C3H7NO2/c5-4(1-6,2-7)3-8;1-2(4)3(5)6/h6-8H,1-3,5H2;2H,4H2,1H3,(H,5,6)/t;2-/m.0/s1
